US06262080B1
Combine 6-aminohexanoic acid (6-aminocaproic acid) (8.0 g, 60 mmol) and water (100 mL). Add sodium carbonate (6.84 g, 64 mmol) and N-carbethoxyphthalimide (14.0 g, 64 mmol). After 1.5 hours, extract the reaction mixture with ethyl acetate (100 mL). Cool the aqueous layer in an ice bath and acidify using concentrated hydrochloric acid to give a solid. Collect the solid by filtration, rinse with water, and dry to give 6-phthalimidohexanoic acid (12.7 g, 80% yield).

reactant | 6-aminohexanoic acid | 60 mmol, 8.0 g | NCCCCCC(=O)O | C6H13NO2
reactant | sodium carbonate | 64 mmol, 6.84 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carbethoxyphthalimide | 64 mmol, 14.0 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 100 mL | O | H2O
product | 6-phthalimidohexanoic acid | 12.7 g, 80% yield | C1(C=2C(C(N1CCCCCC(=O)O)=O)=CC=CC2)=O | C14H15NO4
